US05332840
B. (2R,4R,5R)-2-(2-Bromophenyl)-3,4-dimethyl-5-phenyloxazolidine
To a solution of 2-bromobenzaldehyde (18.78 g, 101.50 mmole, 1.0 eq) in toluene (100 mL) was added (-)-pseudoephedrine (16.73 g, 101.24 mmole, 1.0 eq). The mixture was refluxed for 16 h under an argon atmosphere using a Dean-Stark trap to remove the generated ,water. Concentration in vacuo gave 33.53 g (100%, corrected for 2 wt % toluene by 1H NMR) of a 40:1 mixture of title compound and a minor diastereomer as a light yellow oil.

reactant | 2-bromobenzaldehyde | 101.50 mmole, 18.78 g, 1.0 eq | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | (-)-pseudoephedrine | 101.24 mmole, 16.73 g, 1.0 eq | C[C@H]([C@@H](C1=CC=CC=C1)O)NC | C10H15NO
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (2R,4R,5R)-2-(2-Bromophenyl)-3,4-dimethyl-5-phenyloxazolidine | BrC1=C(C=CC=C1)[C@H]1O[C@@H]([C@H](N1C)C)C1=CC=CC=C1 | C17H18BrNO
